US06518423B1
Ethyl 4-[1-benzyl-1,2,3,6-tetrahydropyrid-4-yl]benzoate
To a solution of 11 g of 4-(4-bromophenyl)-1-benzyl-1,2,3,6-tetrahydropyridine in 200 ml of tetrahydrofuran was added 27 ml of a 2.5 M solution of n-butyllithium in hexane at −78° C. and the resulting mixture was stirred at the same temperature for 15 minutes. Into the reaction mixture was dropped 42 ml of diethyl carbonate and the mixture was heated to room temperature over 15 minutes. After adding water, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 2.8 g of the title compound as a yellow oily substance.

reactant | 4-(4-bromophenyl)-1-benzyl-1,2,3,6-tetrahydropyridine | 11 g | BrC1=CC=C(C=C1)C=1CCN(CC1)CC1=CC=CC=C1 | C18H18BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | diethyl carbonate | 42 ml | C(OCC)(OCC)=O | C5H10O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | Ethyl 4-[1-benzyl-1,2,3,6-tetrahydropyrid-4-yl]benzoate | 2.8 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=C(C(=O)OCC)C=C1 | C21H23NO2
